US07868047B2
(c) 1-(3,5-Dimethoxy-4-1-propylphenyl)-2-(4-methoxyphenyl)ethene (12B)
This material was prepared from diethyl(3,5-dimethoxy-4-1-propylbenzyl)phosphonate and 4-anisaldehyde in 63% yield as the same procedure as described in Example 5(b). 1H NMR (CDCl3, ppm): δ 1.31 (d, J=7.1 Hz, 6H), 3.51-3.74 (m, 1H), 3.86 (s, 3H), 3.91 (s, 6H), 6.71 (s, 2H), 6.84-7.09 (m, 4H), 7.39-7.60 (m, 2H).

reactant | diethyl(3,5-dimethoxy-4-1-propylbenzyl)phosphonate | C(C)OP(OCC)(=O)CC1=CC(=C(C(=C1)OC)CCC)OC | C16H27O5P
reactant | 4-anisaldehyde | C(C1=CC=C(C=C1)OC)=O | C8H8O2
product | 1-(3,5-Dimethoxy-4-1-propylphenyl)-2-(4-methoxyphenyl)ethene | 63% yield | COC=1C=C(C=C(C1CCC)OC)C=CC1=CC=C(C=C1)OC | C20H24O3
